US05196434
7-(2-AMINOETHYL)-3-OXO-2,3-DIHYDRO-1,4-BENZOXAZINE
In a 250-cm3 ground-necked flask, 0.01 mol of 7-(2-bromoethyl)-3-oxo-2,3-dihydro-1,4-benzoxazine and 0.3 g of potassium iodide are dissolved in 30 cm3 of dimethylformamide.

reactant | 7-(2-bromoethyl)-3-oxo-2,3-dihydro-1,4-benzoxazine | 0.01 mol | BrCCC1=CC2=C(NC(CO2)=O)C=C1 | C10H10BrNO2
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | 7-(2-AMINOETHYL)-3-OXO-2,3-DIHYDRO-1,4-BENZOXAZINE | NCCC1=CC2=C(NC(CO2)=O)C=C1 | C10H12N2O2
